US07547710B2
Methyl 3-(aminomethyl)-2-isobutyl-4-phenylquinoline-6-carboxylate Dihydrochloride
To a solution of methyl 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-phenylquinoline-6-carboxylate (0.10 g, 0.22 mmol) in tetrahydrofuran (2 ml) was added 4N solution of hydrogen chloride in ethyl acetate (5 ml), and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from diisopropyl ether-ethyl acetate to give the title compound (0.084 g, yield 90%) as colorless crystals.

reactant | methyl 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-phenylquinoline-6-carboxylate | 0.22 mmol, 0.10 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)OC)CC(C)C | C27H32N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 3-(aminomethyl)-2-isobutyl-4-phenylquinoline-6-carboxylate Dihydrochloride | 0.084 g, yield 90% | Cl.Cl.NCC=1C(=NC2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)OC)CC(C)C | InChI=1S/C22H24N2O2.2ClH/c1-14(2)11-20-18(13-23)21(15-7-5-4-6-8-15)17-12-16(22(25)26-3)9-10-19(17)24-20;;/h4-10,12,14H,11,13,23H2,1-3H3;2*1H
